US04472305
Condensation of BocPro-DTrp-Phe-MeDTrpNHNH2 (0.840 g.) and HLeu-MetNH2 (0.328 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-DTrp-Phe-MeDTrp-Leu-MetNH2 in 57% yield. De-t-butoxycarbonylation of BocPro-DTrp-Phe-MeDTrp-Leu-MetNH2 (0.450 g.) using trifluoroacetic acid in dimethyl sulfide and ethanedithiol gave HPro-DTrp-Phe-MeDTrp-Leu-MetNH2, which was isolated as the crystalline white solid (m.r. 150°-175° C.) hydrochloride hydrate (3:2) in 59% yield.

reactant | BocPro-DTrp-Phe-MeDTrp-Leu-MetNH2 | 0.450 g | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N([C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCC1)C(=O)OC(C)(C)C | C53H69N9O8S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanedithiol | C(C)(S)S | C2H6S2
solvent | dimethyl sulfide | CSC | C2H6S
product | HPro-DTrp-Phe-MeDTrp-Leu-MetNH2 | N1[C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N([C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCCC1 | C49H63N9O6S
